US05846995
N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-4-fluorobenzenesulfonamide
Beginning with 9.0 mg (0.029 mMol) of N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine dihydrochloride hemihydrate and 7.0 mg (0.036 mMol) of 4-fluorobenzenesulfonyl chloride, 5.61 mg (50%) of the title compound were recovered by the procedure described in Example 2.

reactant | N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine dihydrochloride hemihydrate | 0.029 mMol, 9.0 mg | O.Cl.Cl.CN(C1CC2=C(OC3=C2C=C(C=C3)N)CC1)C.CN(C1CC3=C(OC2=C3C=C(C=C2)N)CC1)C.Cl.Cl
reactant | 4-fluorobenzenesulfonyl chloride | 0.036 mMol, 7.0 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-4-fluorobenzenesulfonamide | 5.61 mg, 50% | CN(C1CC2=C(OC3=C2C=C(C=C3)NS(=O)(=O)C3=CC=C(C=C3)F)CC1)C | C20H21FN2O3S
